* C:\Users\jpa55\work\spice\Draft8.asc
M1 P001 N053 N057 N050 CMOSN l=0.18u w=1.8u m=1
M2 N062 N070 N075 N064 CMOSN l=0.18u w=1.8u m=1
M3 N023 N013 N007 N015 CMOSP l=0.18u w=1.8u m=1
M4 N024 N014 N008 N016 CMOSP l=0.18u w=1.8u m=1
M5 N046 N052 N055 N048 CMOSN l=0.18u w=1.8u m=1
M6 N058 N071 N076 N066 CMOSN l=0.18u w=1.8u m=1
M7 N063 N072 N077 N067 CMOSN l=0.18u w=1.8u m=1
M8 N019 N034 N038 N027 CMOSN l=0.18u w=1.8u m=1
M9 P002 N031 N028 N025 CMOSP l=0.18u w=1.8u m=1
M10 N017 N004 N001 N009 CMOSP l=0.18u w=1.8u m=1
M11 N061 N074 N079 N069 CMOSN l=0.18u w=1.8u m=1
M12 P003 N073 N078 N068 CMOSN l=0.18u w=1.8u m=1
M13 N022 N035 N040 N030 CMOSN l=0.18u w=1.8u m=1
M14 N045 N033 N029 N026 CMOSP l=0.18u w=1.8u m=1
M15 N018 N005 N002 N012 CMOSP l=0.18u w=1.8u m=1
XX1 VDD N007 para_register
XX2 VDD N015 para_register
XX3 VDD N016 para_register
XX4 VDD N008 para_register
XX5 N013 CLK para_register
XX6 CLK N014 para_register
XX7 N036 N023 para_register
XX8 N041 N024 para_register
XX9 N046 N036 para_register
XX10 N042 N041 para_register
XX11 P001 N042 para_register
XX12 VINP N052 para_register
XX13 N048 N049 para_register
XX14 N049 N050 para_register
XX15 N053 VINN para_register
XX16 N056 N055 para_register
XX17 N057 N056 para_register
XX18 N062 N056 para_register
XX19 N065 N049 para_register
XX20 CLK N070 para_register
XX21 N065 N064 para_register
XX22 VSS N075 para_register
XX23 VSS N065 para_register
XX24 N036 N037 para_register
XX25 N042 N039 para_register
XX26 VDD N001 para_register
XX27 VDD N010 para_register
XX28 VDD N011 para_register
XX29 VDD N002 para_register
XX30 N004 N003 para_register
XX31 N010 N009 para_register
XX32 N012 N011 para_register
XX33 N006 N005 para_register
XX34 N020 N017 para_register
XX35 N025 N010 para_register
XX36 N026 N011 para_register
XX37 N021 N018 para_register
XX38 N019 N020 para_register
XX39 N021 N022 para_register
XX40 N003 N034 para_register
XX41 N027 VSS para_register
XX42 N038 VSS para_register
XX43 N028 N020 para_register
XX44 N031 N032 para_register
XX45 N035 N006 para_register
XX46 VSS N030 para_register
XX47 VSS N040 para_register
XX48 N029 N021 para_register
XX49 N044 N033 para_register
XX50 N037 N003 para_register
XX51 N039 N006 para_register
XX52 N071 N037 para_register
XX53 N043 P002 para_register
XX54 N047 N045 para_register
XX55 N074 N039 para_register
XX56 N051 N043 para_register
XX57 N073 N044 para_register
XX58 VOUTP N051 para_register
XX59 N051 N059 para_register
XX60 N054 VOUTN para_register
XX61 N047 N054 para_register
XX62 N043 N044 para_register
XX63 N032 N047 para_register
XX64 N032 N072 para_register
XX65 N058 N059 para_register
XX66 N060 N061 para_register
XX67 N054 N060 para_register
XX68 N059 N063 para_register
XX69 N060 P003 para_register
XX70 N076 VSS para_register
XX71 N066 VSS para_register
XX72 N067 VSS para_register
XX73 N077 VSS para_register
XX74 N078 VSS para_register
XX75 N068 VSS para_register
XX76 N069 VSS para_register
XX77 N079 VSS para_register

* block symbol definitions
.subckt para_register  
R1 out in 0.01
.ends para_register

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jpa55\Documents\LTspiceXVII\lib\cmp\standard.mos
.include tsmc018.mdl
.backanno
.end
